US04482556
9,10-Dimethoxy-2-sec-butylamino-6,7-dihydro-4H-pyrimido(6,1-a)isoquinolin-4-one hydrochloride
A solution of 9,10-dimethoxy-6,7-dihydro-2-chloro-4H-pyrimido(6,1-a)isoquinolin-4-one (2.5 g), sec-butylamine (10 ml) and dimethylformamide (2 ml) is heated under reflux for 5 hours. The solvent and excess amine are distilled under reduced pressure. The residue is treated with water. A white solid precicipitates and is collected by filtration. The precipitate is crystallized from methylene chloride-ether mixture, yield 2.10 g. The crystals are dissolved in dichloromethane and treated with a solution of etheral hydrochloric acid. The hydrochloride is crystallized from ethanol-ether mixture, m.p. 218°-225° C.

reactant | 9,10-dimethoxy-6,7-dihydro-2-chloro-4H-pyrimido(6,1-a)isoquinolin-4-one | 2.5 g | COC=1C=C2CCN3C(C2=CC1OC)=CC(=NC3=O)Cl | C14H13ClN2O3
reactant | sec-butylamine | 10 ml | C(C)(CC)N | C4H11N
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 9,10-Dimethoxy-2-sec-butylamino-6,7-dihydro-4H-pyrimido(6,1-a)isoquinolin-4-one hydrochloride | Cl.COC=1C=C2CCN3C(C2=CC1OC)=CC(=NC3=O)NC(C)CC | InChI=1S/C18H23N3O3.ClH/c1-5-11(2)19-17-10-14-13-9-16(24-4)15(23-3)8-12(13)6-7-21(14)18(22)20-17;/h8-11H,5-7H2,1-4H3,(H,19,20,22);1H
